*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.002/0.004
*-- die chiplet4:  metal layers: 2


.subckt chiplet4
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+ns_pad_port_0_4
+nd_pad_port_0_5
+ns_pad_port_0_6
+nd_pad_port_0_7
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+nd_pad_port_1_4
+ns_pad_port_1_5
+nd_pad_port_1_6
+ns_pad_port_1_7
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+ns_pad_port_2_4
+nd_pad_port_2_5
+ns_pad_port_2_6
+nd_pad_port_2_7
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
+nd_pad_port_3_4
+ns_pad_port_3_5
+nd_pad_port_3_6
+ns_pad_port_3_7
*-- p/g port #: 16/16
+nd_1_0_7000_3500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_1000 ns_1_0_2000_1000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_1000 ns_1_0_4000_1000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_1000 ns_1_0_6000_1000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_1000 ns_1_0_8000_1000 0.016324
rs_1_2_0_2_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_3_0 ns_1_0_0_3000 ns_1_0_2000_3000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_3000 ns_1_0_4000_3000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_3000 ns_1_0_6000_3000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_3000 ns_1_0_8000_3000 0.016324
rs_1_2_0_4_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_5_0 ns_1_0_0_5000 ns_1_0_2000_5000 0.016324
rs_1_2_0_5_1 ns_1_0_2000_5000 ns_1_0_4000_5000 0.016324
rs_1_2_0_5_2 ns_1_0_4000_5000 ns_1_0_6000_5000 0.016324
rs_1_2_0_5_3 ns_1_0_6000_5000 ns_1_0_8000_5000 0.016324
rs_1_2_0_6_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_6_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_6_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_6_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_7_0 ns_1_0_0_7000 ns_1_0_2000_7000 0.016324
rs_1_2_0_7_1 ns_1_0_2000_7000 ns_1_0_4000_7000 0.016324
rs_1_2_0_7_2 ns_1_0_4000_7000 ns_1_0_6000_7000 0.016324
rs_1_2_0_7_3 ns_1_0_6000_7000 ns_1_0_8000_7000 0.016324
rs_1_2_0_8_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_8_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_8_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_8_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
rs_1_2_0_9_0 ns_1_0_0_9000 ns_1_0_2000_9000 0.016324
rs_1_2_0_9_1 ns_1_0_2000_9000 ns_1_0_4000_9000 0.016324
rs_1_2_0_9_2 ns_1_0_4000_9000 ns_1_0_6000_9000 0.016324
rs_1_2_0_9_3 ns_1_0_6000_9000 ns_1_0_8000_9000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_1000 0.016324
rs_2_1_0_0_1 ns_2_0_0_1000 ns_2_0_0_2000 0.016324
rs_2_1_0_0_2 ns_2_0_0_2000 ns_2_0_0_3000 0.016324
rs_2_1_0_0_3 ns_2_0_0_3000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_4 ns_2_0_0_4000 ns_2_0_0_5000 0.016324
rs_2_1_0_0_5 ns_2_0_0_5000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_6 ns_2_0_0_6000 ns_2_0_0_7000 0.016324
rs_2_1_0_0_7 ns_2_0_0_7000 ns_2_0_0_8000 0.016324
rs_2_1_0_0_8 ns_2_0_0_8000 ns_2_0_0_9000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_1000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_1000 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_2000 ns_2_0_2000_3000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_3000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_4 ns_2_0_2000_4000 ns_2_0_2000_5000 0.016324
rs_2_1_0_1_5 ns_2_0_2000_5000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_6 ns_2_0_2000_6000 ns_2_0_2000_7000 0.016324
rs_2_1_0_1_7 ns_2_0_2000_7000 ns_2_0_2000_8000 0.016324
rs_2_1_0_1_8 ns_2_0_2000_8000 ns_2_0_2000_9000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_1000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_1000 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_2000 ns_2_0_4000_3000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_3000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_4 ns_2_0_4000_4000 ns_2_0_4000_5000 0.016324
rs_2_1_0_2_5 ns_2_0_4000_5000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_6 ns_2_0_4000_6000 ns_2_0_4000_7000 0.016324
rs_2_1_0_2_7 ns_2_0_4000_7000 ns_2_0_4000_8000 0.016324
rs_2_1_0_2_8 ns_2_0_4000_8000 ns_2_0_4000_9000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_1000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_1000 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_2000 ns_2_0_6000_3000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_3000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_4 ns_2_0_6000_4000 ns_2_0_6000_5000 0.016324
rs_2_1_0_3_5 ns_2_0_6000_5000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_6 ns_2_0_6000_6000 ns_2_0_6000_7000 0.016324
rs_2_1_0_3_7 ns_2_0_6000_7000 ns_2_0_6000_8000 0.016324
rs_2_1_0_3_8 ns_2_0_6000_8000 ns_2_0_6000_9000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_1000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_1000 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_2000 ns_2_0_8000_3000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_3000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_4 ns_2_0_8000_4000 ns_2_0_8000_5000 0.016324
rs_2_1_0_4_5 ns_2_0_8000_5000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_6 ns_2_0_8000_6000 ns_2_0_8000_7000 0.016324
rs_2_1_0_4_7 ns_2_0_8000_7000 ns_2_0_8000_8000 0.016324
rs_2_1_0_4_8 ns_2_0_8000_8000 ns_2_0_8000_9000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_1000 ns_2_0_0_1000 0.005
rvs_1_0_1_1 ns_1_0_2000_1000 ns_2_0_2000_1000 0.005
rvs_1_0_1_2 ns_1_0_4000_1000 ns_2_0_4000_1000 0.005
rvs_1_0_1_3 ns_1_0_6000_1000 ns_2_0_6000_1000 0.005
rvs_1_0_1_4 ns_1_0_8000_1000 ns_2_0_8000_1000 0.005
rvs_1_0_2_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_2_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_2_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_2_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_2_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_3_0 ns_1_0_0_3000 ns_2_0_0_3000 0.005
rvs_1_0_3_1 ns_1_0_2000_3000 ns_2_0_2000_3000 0.005
rvs_1_0_3_2 ns_1_0_4000_3000 ns_2_0_4000_3000 0.005
rvs_1_0_3_3 ns_1_0_6000_3000 ns_2_0_6000_3000 0.005
rvs_1_0_3_4 ns_1_0_8000_3000 ns_2_0_8000_3000 0.005
rvs_1_0_4_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_4_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_4_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_4_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_4_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_5_0 ns_1_0_0_5000 ns_2_0_0_5000 0.005
rvs_1_0_5_1 ns_1_0_2000_5000 ns_2_0_2000_5000 0.005
rvs_1_0_5_2 ns_1_0_4000_5000 ns_2_0_4000_5000 0.005
rvs_1_0_5_3 ns_1_0_6000_5000 ns_2_0_6000_5000 0.005
rvs_1_0_5_4 ns_1_0_8000_5000 ns_2_0_8000_5000 0.005
rvs_1_0_6_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_6_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_6_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_6_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_6_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_7_0 ns_1_0_0_7000 ns_2_0_0_7000 0.005
rvs_1_0_7_1 ns_1_0_2000_7000 ns_2_0_2000_7000 0.005
rvs_1_0_7_2 ns_1_0_4000_7000 ns_2_0_4000_7000 0.005
rvs_1_0_7_3 ns_1_0_6000_7000 ns_2_0_6000_7000 0.005
rvs_1_0_7_4 ns_1_0_8000_7000 ns_2_0_8000_7000 0.005
rvs_1_0_8_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_8_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_8_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_8_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_8_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
rvs_1_0_9_0 ns_1_0_0_9000 ns_2_0_0_9000 0.005
rvs_1_0_9_1 ns_1_0_2000_9000 ns_2_0_2000_9000 0.005
rvs_1_0_9_2 ns_1_0_4000_9000 ns_2_0_4000_9000 0.005
rvs_1_0_9_3 ns_1_0_6000_9000 ns_2_0_6000_9000 0.005
rvs_1_0_9_4 ns_1_0_8000_9000 ns_2_0_8000_9000 0.005
id_0_0_0_0 nd_1_0_1000_500 0 0.0193873
id_0_0_0_1 nd_1_0_3000_500 0 0.00491224
id_0_0_0_2 nd_1_0_5000_500 0 0.00985088
id_0_0_0_3 nd_1_0_7000_500 0 0.00662095
id_0_0_0_4 nd_1_0_9000_500 0 0.0147135
id_0_0_0_5 nd_1_0_1000_1500 0 0.00016502
id_0_0_0_6 nd_1_0_3000_1500 0 0.0164785
id_0_0_0_7 nd_1_0_5000_1500 0 0.00192363
id_0_0_0_8 nd_1_0_7000_1500 0 0.0213881
id_0_0_0_9 nd_1_0_9000_1500 0 0.0150118
id_0_0_0_10 nd_1_0_1000_2500 0 0.0117899
id_0_0_0_11 nd_1_0_3000_2500 0 0.0085465
id_0_0_0_12 nd_1_0_5000_2500 0 0.00532656
id_0_0_0_13 nd_1_0_7000_2500 0 0.0102722
id_0_0_0_14 nd_1_0_9000_2500 0 0.0182796
id_0_0_0_15 nd_1_0_1000_3500 0 0.00379632
id_0_0_0_16 nd_1_0_3000_3500 0 0.0118633
id_0_0_0_17 nd_1_0_5000_3500 0 0.00545492
id_0_0_0_18 nd_1_0_7000_3500 0 0.00247137
id_0_0_0_19 nd_1_0_9000_3500 0 0.0217138
id_0_0_0_20 nd_1_0_1000_4500 0 0.0186551
id_0_0_0_21 nd_1_0_3000_4500 0 0.000877177
id_0_0_0_22 nd_1_0_5000_4500 0 0.00896172
id_0_0_0_23 nd_1_0_7000_4500 0 0.0170355
id_0_0_0_24 nd_1_0_9000_4500 0 0.0137809
id_0_0_0_25 nd_1_0_1000_5500 0 0.018665
id_0_0_0_26 nd_1_0_3000_5500 0 0.0154938
id_0_0_0_27 nd_1_0_5000_5500 0 0.0123053
id_0_0_0_28 nd_1_0_7000_5500 0 0.0203621
id_0_0_0_29 nd_1_0_9000_5500 0 0.00269782
id_0_0_0_30 nd_1_0_1000_6500 0 0.0221187
id_0_0_0_31 nd_1_0_3000_6500 0 0.0189076
id_0_0_0_32 nd_1_0_5000_6500 0 0.00125375
id_0_0_0_33 nd_1_0_7000_6500 0 0.0205931
id_0_0_0_34 nd_1_0_9000_6500 0 0.00600955
id_0_0_0_35 nd_1_0_1000_7500 0 0.0142985
id_0_0_0_36 nd_1_0_3000_7500 0 0.00788941
id_0_0_0_37 nd_1_0_5000_7500 0 0.00464647
id_0_0_0_38 nd_1_0_7000_7500 0 0.0127579
id_0_0_0_39 nd_1_0_9000_7500 0 0.0208175
id_0_0_0_40 nd_1_0_1000_8500 0 0.00308326
id_0_0_0_41 nd_1_0_3000_8500 0 0.0224494
id_0_0_0_42 nd_1_0_5000_8500 0 0.00807789
id_0_0_0_43 nd_1_0_7000_8500 0 0.00489826
id_0_0_0_44 nd_1_0_9000_8500 0 0.00968448
id_0_0_0_45 nd_1_0_1000_9500 0 0.0178515
id_0_0_0_46 nd_1_0_3000_9500 0 0.0145828
id_0_0_0_47 nd_1_0_5000_9500 0 7.90456e-05
id_0_0_0_48 nd_1_0_7000_9500 0 0.00489408
id_0_0_0_49 nd_1_0_9000_9500 0 0.00186154
is_0_0_0_0 0 ns_1_0_0_0 0.00727401
is_0_0_0_1 0 ns_1_0_2000_0 0.0156688
is_0_0_0_2 0 ns_1_0_4000_0 0.0125325
is_0_0_0_3 0 ns_1_0_6000_0 0.0174512
is_0_0_0_4 0 ns_1_0_8000_0 0.00249783
is_0_0_0_5 0 ns_1_0_0_1000 0.022535
is_0_0_0_6 0 ns_1_0_2000_1000 0.0192694
is_0_0_0_7 0 ns_1_0_4000_1000 0.00102912
is_0_0_0_8 0 ns_1_0_6000_1000 0.021043
is_0_0_0_9 0 ns_1_0_8000_1000 0.00601353
is_0_0_0_10 0 ns_1_0_0_2000 0.00274534
is_0_0_0_11 0 ns_1_0_2000_2000 0.0195121
is_0_0_0_12 0 ns_1_0_4000_2000 0.0161214
is_0_0_0_13 0 ns_1_0_6000_2000 0.00126531
is_0_0_0_14 0 ns_1_0_8000_2000 0.00624475
is_0_0_0_15 0 ns_1_0_0_3000 0.00287237
is_0_0_0_16 0 ns_1_0_2000_3000 0.0113038
is_0_0_0_17 0 ns_1_0_4000_3000 0.0196806
is_0_0_0_18 0 ns_1_0_6000_3000 0.013026
is_0_0_0_19 0 ns_1_0_8000_3000 0.0213974
is_0_0_0_20 0 ns_1_0_0_4000 0.00645654
is_0_0_0_21 0 ns_1_0_2000_4000 0.014805
is_0_0_0_22 0 ns_1_0_4000_4000 0.0198005
is_0_0_0_23 0 ns_1_0_6000_4000 0.016598
is_0_0_0_24 0 ns_1_0_8000_4000 0.0132553
is_0_0_0_25 0 ns_1_0_0_5000 0.00991917
is_0_0_0_26 0 ns_1_0_2000_5000 0.00336784
is_0_0_0_27 0 ns_1_0_4000_5000 0.0117246
is_0_0_0_28 0 ns_1_0_6000_5000 0.0200049
is_0_0_0_29 0 ns_1_0_8000_5000 0.00508468
is_0_0_0_30 0 ns_1_0_0_6000 0.0101777
is_0_0_0_31 0 ns_1_0_2000_6000 0.0185856
is_0_0_0_32 0 ns_1_0_4000_6000 0.015255
is_0_0_0_33 0 ns_1_0_6000_6000 0.0118661
is_0_0_0_34 0 ns_1_0_8000_6000 0.0053649
is_0_0_0_35 0 ns_1_0_0_7000 0.00201868
is_0_0_0_36 0 ns_1_0_2000_7000 0.0220121
is_0_0_0_37 0 ns_1_0_4000_7000 0.00709113
is_0_0_0_38 0 ns_1_0_6000_7000 0.0119831
is_0_0_0_39 0 ns_1_0_8000_7000 0.0204551
is_0_0_0_40 0 ns_1_0_0_8000 0.00538985
is_0_0_0_41 0 ns_1_0_2000_8000 0.00212354
is_0_0_0_42 0 ns_1_0_4000_8000 0.00724952
is_0_0_0_43 0 ns_1_0_6000_8000 0.00392848
is_0_0_0_44 0 ns_1_0_8000_8000 0.012388
is_0_0_0_45 0 ns_1_0_0_9000 0.00574467
is_0_0_0_46 0 ns_1_0_2000_9000 0.0141075
is_0_0_0_47 0 ns_1_0_4000_9000 0.0108412
is_0_0_0_48 0 ns_1_0_6000_9000 0.00750598
is_0_0_0_49 0 ns_1_0_8000_9000 0.000967459

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val150'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val151'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val152'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val153'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val154'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val155'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val156'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val157'
rd_add0 nd0 0 'esr29'
rd_add1 nd1 0 'esr30'
rd_add2 nd2 0 'esr31'
rd_add3 nd3 0 'esr32'
rd_add4 nd4 0 'esr33'
rd_add5 nd5 0 'esr34'
rd_add6 nd6 0 'esr35'
rd_add7 nd7 0 'esr36'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xs_pad_0_4 ns_pad_port_0_4 ns_pad_0_4 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xs_pad_0_6 ns_pad_port_0_6 ns_pad_0_6 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xs_pad_1_5 ns_pad_port_1_5 ns_pad_1_5 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xs_pad_1_7 ns_pad_port_1_7 ns_pad_1_7 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xs_pad_2_4 ns_pad_port_2_4 ns_pad_2_4 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xs_pad_2_6 ns_pad_port_2_6 ns_pad_2_6 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xs_pad_3_5 ns_pad_port_3_5 ns_pad_3_5 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xs_pad_3_7 ns_pad_port_3_7 ns_pad_3_7 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_1000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rs_pad2via_0_4 ns_pad_0_4 ns_2_0_2000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rs_pad2via_0_6 ns_pad_0_6 ns_2_0_2000_8000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_4000  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rs_pad2via_1_5 ns_pad_1_5 ns_2_0_4000_7000  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rs_pad2via_1_7 ns_pad_1_7 ns_2_0_4000_9000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_1000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rs_pad2via_2_4 ns_pad_2_4 ns_2_0_6000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rs_pad2via_2_6 ns_pad_2_6 ns_2_0_6000_8000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_4000  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rs_pad2via_3_5 ns_pad_3_5 ns_2_0_8000_7000  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001
rs_pad2via_3_7 ns_pad_3_7 ns_2_0_8000_9000  0.001

.ends chiplet4
